US04342692
1-(3',4'-dimethoxyphenyl)-7-phenyl-2-nitro-5-heptanone ethylene ketal
Into a 1 l r.b. flask equipped with a Dean Stark trap was placed 46.4 g (0.12 m) of 1-(3',4'-dimethoxyphenyl)-7-phenyl-2-nitro-5-heptanone, 1.5 g p-toluenesulfonic acid, 50 mL of ethylene glycol and 300 mL of cyclohexane. The mixture was allowed to reflux overnight, then concentrated in vacuo. Dil NaHCO3 solution was added to the residue and extracted with ethyl acetate. The organic layer was backwashed with water, dried over anh. MgSO4, filtered and concentrated under reduced pressure to give 45.3 g of an oil which solidified on drying at room temperature under vacuum.

reactant | 1-(3',4'-dimethoxyphenyl)-7-phenyl-2-nitro-5-heptanone | 46.4 g | COC=1C=C(C=CC1OC)CC(CCC(CCC1=CC=CC=C1)=O)[N+](=O)[O-] | C21H25NO5
reactant | p-toluenesulfonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 50 mL | C(CO)O | C2H6O2
solvent | cyclohexane | 300 mL | C1CCCCC1 | C6H12
product | 1-(3',4'-dimethoxyphenyl)-7-phenyl-2-nitro-5-heptanone ethylene ketal | 45.3 g | C1COC(CCC(CC2=CC(=C(C=C2)OC)OC)[N+](=O)[O-])(CCC2=CC=CC=C2)O1 | C23H29NO6
